US04739050
3,4-Dihydro-2-(4-hydroxyphenyl)-4-methyl-2-methylamino-3-oxo-2H-1,4-benzothiazine (compound No. 66)
To a stirred suspension of 2-chloro-3,4-dihydro-2-(4-hydroxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine (11.5 g, compound No. 2) in tetrahydrofuran (40 ml), 40% aqueous methylamine solution (14.6 ml) is added. The mixture is stirred for 2 hours at room temperature, and poured into a mixture of ethyl acetate and water. The organic layer is washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo to give 10.1 g (89.8%) of the titled compound.

reactant | 2-chloro-3,4-dihydro-2-(4-hydroxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine | ClC1(SC2=C(N(C1=O)C)C=CC=C2)C2=CC=C(C=C2)O | C15H12ClNO2S
reactant | methylamine | 14.6 ml | CN | CH5N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3,4-Dihydro-2-(4-hydroxyphenyl)-4-methyl-2-methylamino-3-oxo-2H-1,4-benzothiazine | 10.1 g, 89.8% | OC1=CC=C(C=C1)C1(SC2=C(N(C1=O)C)C=CC=C2)NC | C16H16N2O2S
